US06221874B1
1,3-Dibutyl-7-methanesulfonyl-3,7-dihydro-purine-2,6-dione
To 500 mg (1.89 mmol) of 1,3-dibutyl-3,7-dihydro-purine-2,6-dione in 30 mL of acetone at 23° C. was added 1.04 g (7.56 mmol) of potassium carbonate followed by 0.15 mL (216 mg, 1.89 mmol) of methanesulfonyl chloride. After stirring at 23° C. for 30 min, the reaction mixture was filtered, the filtrate collected and evaporated to give a white solid. This solid was then triturated with 30 mL of petroleum ether to give 500 mg (1.46 mmol, a 77% yield) of the title compound as a white crystalline solid. mp: 98-100° C.; 1H NMR (300 MHz, CDCl3); δ 0.93-0.99 (m, 6H), 1.42-1.49 (m, 4H), 1.55-1.58 (m, 2H), 1.60-1.70 (m, 2H), 3.85 (s, 3H), 3.99-4.04 (m, 2H), ), 4.05-4.16 (t, 2H), 8.17 (s, 1H), 8.55; IR (KBr, cm−1): 3144w, 2965m, 2938m, 2876w, 1715s, 1663s, 1537s, 1442m, 1397s, 1182s, 1131,m, 761m, 670m; MS (ES) m/z (relative intensity): 343 (M++H, 100).

reactant | 1,3-dibutyl-3,7-dihydro-purine-2,6-dione | 1.89 mmol, 500 mg | C(CCC)N1C(N(C=2N=CNC2C1=O)CCCC)=O | C13H20N4O2
reactant | potassium carbonate | 7.56 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | 1.89 mmol, 0.15 mL, 216 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 1,3-Dibutyl-7-methanesulfonyl-3,7-dihydro-purine-2,6-dione | 77% yield | C(CCC)N1C(N(C=2N=CN(C2C1=O)S(=O)(=O)C)CCCC)=O | C14H22N4O4S
